US08541588B2
tert-Butyl 3-{5-[2-hydroxy-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate
To a stirred solution of crude tert-butyl 3-hydrazinoazetidine-1-carboxylate, (Preparation 858, 5.7 g, 0.030 mol) in ethanol (66 mL) at 0° C. was added acetic acid (6.6 mL) dropwise. Then (2E)-3-(dimethylamino)-1-[2-hydroxy-5-(trifluoromethyl)phenyl]prop-2-en-1-one, (Preparation 859, 6.4 g, 24.68 m mol) was added portionwise and allowed to stir at room temperature for 20 hours. The reaction mixture was concentrated in vacuo and neutralised with aqueous sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate (150 mL). The combined organic layer was washed with water (100 mL), saturated aqueous sodium chloride solution (50 mL) and dried over anhydrous sodium sulphate. After concentration of organic layer in vacuo, the crude product was washed with 20% v/v ethyl acetate in hexane to get the title compound as a white solid (7.4 g).

reactant | tert-butyl 3-hydrazinoazetidine-1-carboxylate | N(N)C1CN(C1)C(=O)OC(C)(C)C | C8H17N3O2
reactant | acetic acid | 6.6 mL | C(C)(=O)O | C2H4O2
reactant | (2E)-3-(dimethylamino)-1-[2-hydroxy-5-(trifluoromethyl)phenyl]prop-2-en-1-one | CN(/C=C/C(=O)C1=C(C=CC(=C1)C(F)(F)F)O)C | C12H12F3NO2
solvent | ethanol | 66 mL | C(C)O | C2H6O
product | tert-Butyl 3-{5-[2-hydroxy-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | 7.4 g | OC1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1C1CN(C1)C(=O)OC(C)(C)C | C18H20F3N3O3
